US07435827B2
A 100 ml flask was loaded with Zoledronic acid form I (4.9 g), Sodium hydroxide (1.4 g), Methanol (50 ml) and water (2.5 ml) [=5% v/v water in Methanol]. The reaction mixture was heated to reflux temperature for 21 hours. Then the reaction mixture was cooled to room temperature. Further cooling was performed using an ice-bath. The precipitate was then filtered, washed with absolute Ethanol (2×75 ml) and dried in a vacuum oven at 50° C. for 27.5 hours to give 5.7 g (93%) of Zoledronate disodium crystal form XXVII (LOD by TGA=5.3%). Purity by HPLC 99.9%.

reactant | Zoledronic acid | C1=CN(C=N1)CC(O)(P(=O)(O)O)P(=O)(O)O | C5H10N2O7P2
reactant | Sodium hydroxide | 1.4 g | [OH-].[Na+]
reactant | water | 2.5 ml | O | H2O
solvent | Methanol | CO | CH4O
solvent | Methanol | 50 ml | CO | CH4O
product | Zoledronate disodium | 5.7 g, 93% | C1=CN(C=N1)CC(O)(P(=O)(O)[O-])P(=O)(O)[O-].O.O.O.O.[Na+].[Na+] | InChI=1S/C5H10N2O7P2.2Na.4H2O/c8-5(15(9,10)11,16(12,13)14)3-7-2-1-6-4-7;;;;;;/h1-2,4,8H,3H2,(H2,9,10,11)(H2,12,13,14);;;4*1H2/q;2*+1;;;;/p-2
